* File: hw2_XOR.pex.cir.pex
* Created: Fri Nov 15 23:33:33 2024
* Program "Calibre xRC"
* Version "v2020.2_14.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW2_XOR%A 7 11 15 19 32
c0 36 0 0.408728f
c1 28 0 0.0442169f
c2 27 0 0.0980431f
c3 23 0 0.0905033f
c4 22 0 0.0788057f
c5 19 0 0.381733f
c6 15 0 0.233986f
c7 11 0 0.425009f
c8 7 0 0.165584f
c9 3 0 0.0337414f
r10 32 36 0.66716
r11 27 30 8.07022
r12 27 29 8.07022
r13 27 28 13.2552
r14 23 36 8
r15 22 25 8.07022
r16 22 24 8.07022
r17 22 23 13.2552
r18 19 30 165.75
r19 15 29 97.75
r20 11 25 196.75
r21 7 24 66.75
r22 4 23 0.1414
r23 3 28 0.169217
r24 3 4 0.0391994
.ends

.subckt PM_HW2_XOR%B 7 11 15 19 23 27 46
c0 56 0 1.70747f
c1 42 0 0.109519f
c2 41 0 0.0979717f
c3 38 0 0.103638f
c4 36 0 0.038287f
c5 31 0 0.0281019f
c6 30 0 0.0835787f
c7 27 0 0.257853f
c8 23 0 0.457645f
c9 19 0 0.239684f
c10 15 0 0.403475f
c11 11 0 0.254508f
c12 7 0 0.429898f
r13 53 56 0.4914
r14 50 53 1.8382
r15 46 50 0.20956
r16 42 56 8
r17 41 44 8.07022
r18 41 43 8.07022
r19 41 42 13.2552
r20 36 53 8
r21 35 38 5.4383
r22 35 36 13.2552
r23 31 50 8
r24 30 33 8.07022
r25 30 32 8.07022
r26 30 31 13.2552
r27 27 44 92.75
r28 23 43 170.75
r29 17 38 4.73303
r30 17 19 92.75
r31 13 38 4.73303
r32 13 15 170.75
r33 11 33 92.75
r34 7 32 170.75
.ends

.subckt PM_HW2_XOR%3 4 9 10
c0 20 0 0.464957f
c1 13 0 0.16624f
c2 7 0 0.204349f
r3 19 20 8
r4 16 20 0.754
r5 15 16 8
r6 13 19 0.1484
r7 12 13 16.3327
r8 10 12 4.90213
r9 9 12 4.86383
r10 7 15 0.1484
r11 6 7 16.3327
r12 4 6 5.05532
.ends

.subckt PM_HW2_XOR%4 4 9 10
c0 20 0 0.455006f
c1 19 0 0.164677f
c2 15 0 0.213607f
r3 19 20 8
r4 16 20 0.754
r5 15 16 8
r6 13 19 0.1484
r7 12 13 16.3327
r8 10 12 4.90213
r9 9 12 4.86383
r10 7 15 0.1484
r11 6 7 16.3327
r12 4 6 5.05532
.ends

.subckt PM_HW2_XOR%5 4 9 10
c0 20 0 1.00735f
c1 13 0 0.282607f
c2 7 0 0.236154f
r3 19 20 8
r4 16 20 1.118
r5 15 16 8
r6 13 19 0.294
r7 12 13 16.3327
r8 10 12 4.90213
r9 9 12 5.24681
r10 7 15 0.294
r11 6 7 16.3327
r12 4 6 5.09362
.ends

.subckt PM_HW2_XOR%6 4 9 10
c0 20 0 0.896911f
c1 19 0 0.272198f
c2 15 0 0.236119f
r3 19 20 8
r4 16 20 1.118
r5 15 16 8
r6 13 19 0.294
r7 12 13 16.3327
r8 10 12 4.90213
r9 9 12 5.24681
r10 7 15 0.294
r11 6 7 16.3327
r12 4 6 5.09362
.ends

.subckt PM_HW2_XOR%7 4 9 16 20
c0 33 0 0.896857f
c1 24 0 0.0432412f
c2 23 0 0.092666f
c3 20 0 0.405523f
c4 16 0 0.338724f
c5 12 0 0.830808f
r6 29 33 1.2324
r7 28 29 8
r8 24 33 8
r9 23 26 8.07022
r10 23 25 8.07022
r11 23 24 13.2552
r12 20 26 144.75
r13 16 25 118.75
r14 12 28 0.73052
r15 11 12 16.3327
r16 9 11 5.24681
r17 7 28 0.8764
r18 6 7 16.3327
r19 4 6 5.24681
.ends

.subckt PM_HW2_XOR%8 5 10 17 21 25 29
c0 50 0 1.16485f
c1 38 0 0.0413336f
c2 37 0 0.103132f
c3 33 0 0.0488275f
c4 32 0 0.104822f
c5 29 0 0.373841f
c6 25 0 0.451936f
c7 21 0 0.364184f
c8 17 0 0.450112f
c9 13 0 0.831286f
r10 49 50 8
r11 47 50 0.8658
r12 43 47 0.546
r13 38 47 8
r14 37 40 8.07022
r15 37 39 8.07022
r16 37 38 13.2552
r17 33 43 8
r18 32 35 8.07022
r19 32 34 8.07022
r20 32 33 13.2552
r21 29 40 118.75
r22 25 39 144.75
r23 21 35 118.75
r24 17 34 144.75
r25 13 49 0.87612
r26 12 13 16.3327
r27 10 12 4.86383
r28 8 49 0.7308
r29 7 8 16.3327
r30 5 7 4.86383
.ends

.subckt PM_HW2_XOR%9 4 5 9
c0 20 0 0.583415f
c1 12 0 0.155364f
c2 8 0 0.188401f
r3 19 20 8
r4 16 20 0.9334
r5 15 16 8
r6 12 19 0.1484
r7 11 12 16.3327
r8 9 11 4.86383
r9 8 15 0.1484
r10 7 8 16.3327
r11 5 7 5.66809
r12 4 7 4.86383
.ends

.subckt PM_HW2_XOR%10 4 5 9
c0 20 0 0.582204f
c1 19 0 0.158006f
c2 15 0 0.179408f
r3 19 20 8
r4 16 20 0.9334
r5 15 16 8
r6 12 19 0.1484
r7 11 12 16.3327
r8 9 11 4.86383
r9 8 15 0.1484
r10 7 8 16.3327
r11 5 7 5.66809
r12 4 7 4.86383
.ends

.subckt PM_HW2_XOR%C 6 10 14 18 38
c0 38 0 1.29219f
c1 35 0 0.0949164f
c2 31 0 0.0930481f
c3 26 0 0.104664f
c4 21 0 0.111296f
c5 18 0 0.549832f
c6 14 0 0.200099f
c7 10 0 0.595744f
c8 6 0 0.234719f
r9 36 38 0.25844
r10 35 36 8
r11 32 36 1.5054
r12 31 32 8
r13 26 29 8.07022
r14 26 28 8.07022
r15 26 35 13.2552
r16 21 24 8.07022
r17 21 23 8.07022
r18 21 31 13.2552
r19 18 29 196.75
r20 14 28 66.75
r21 10 24 196.75
r22 6 23 66.75
.ends

.subckt PM_HW2_XOR%S 3 4 8 9 18
c0 18 0 1.21485f
c1 12 0 0.973811f
r2 15 18 1.64424
r3 14 15 8
r4 12 14 1.16732
r5 11 12 16.3327
r6 9 11 4.90213
r7 8 11 4.86383
r8 7 14 0.4396
r9 6 7 16.3327
r10 4 6 4.90213
r11 3 6 4.86383
.ends

.subckt PM_HW2_XOR%13 4 9 16 20
c0 33 0 1.06149f
c1 24 0 0.0966897f
c2 23 0 0.109094f
c3 20 0 0.533141f
c4 16 0 0.313222f
c5 12 0 0.621377f
r6 32 33 8
r7 29 33 1.37774
r8 24 29 8
r9 23 26 8.07022
r10 23 25 8.07022
r11 23 24 13.2552
r12 20 26 170.75
r13 16 25 92.75
r14 12 32 0.58492
r15 11 12 16.3327
r16 9 11 5.07447
r17 7 32 1.022
r18 6 7 16.3327
r19 4 6 5.07447
.ends

.subckt PM_HW2_XOR%14 8 9 13
c0 22 0 0.542002f
c1 16 0 0.224551f
c2 12 0 0.184366f
c3 4 0 0.058357f
r4 21 22 8
r5 16 21 0.294
r6 15 16 16.3327
r7 13 15 4.90213
r8 11 12 16.3327
r9 9 11 5.4766
r10 8 11 4.86383
r11 7 22 0.5616
r12 6 7 8
r13 4 12 0.25872
r14 4 6 0.0310889
.ends

.subckt PM_HW2_XOR%15 4 5 9
c0 20 0 0.550514f
c1 19 0 0.224928f
c2 15 0 0.231623f
r3 19 20 8
r4 16 20 0.559
r5 15 16 8
r6 12 19 0.294
r7 11 12 16.3327
r8 9 11 4.90213
r9 8 15 0.294
r10 7 8 16.3327
r11 5 7 5.4766
r12 4 7 4.86383
.ends

.subckt PM_HW2_XOR%GND 9 17 24 25 29 34 35
c0 38 0 0.0807365f
c1 32 0 0.0723971f
c2 28 0 0.0818166f
c3 20 0 0.012792f
c4 15 0 0.00937313f
c5 13 0 0.00937313f
c6 10 0 0.287103f
c7 6 0 0.410695f
c8 5 0 0.0174766f
c9 4 0 0.241816f
c10 3 0 0.175243f
r11 37 38 16.3327
r12 35 37 4.90213
r13 34 37 5.4383
r14 31 32 16.3327
r15 29 31 4.90213
r16 27 28 16.3327
r17 25 27 4.90213
r18 24 27 5.05532
r19 20 45 0.0246522
r20 17 20 16.3327
r21 16 38 0.138783
r22 14 32 0.138783
r23 14 15 0.00770322
r24 12 28 0.138783
r25 12 13 0.00770322
r26 11 15 0.0296412
r27 10 16 0.039111
r28 10 11 0.821739
r29 7 13 0.0296412
r30 7 9 0.666522
r31 6 15 0.0296412
r32 6 9 0.553913
r33 4 13 0.0296412
r34 4 5 0.745652
r35 3 45 0.00411102
r36 2 5 0.039111
r37 2 3 0.441304
.ends

.subckt PM_HW2_XOR%VDD 9 18 19 20 24 29 30
c0 36 0 0.0226394f
c1 33 0 0.0769352f
c2 27 0 0.069131f
c3 23 0 0.0747101f
c4 16 0 0.00937313f
c5 14 0 0.00937313f
c6 12 0 0.0128151f
c7 10 0 0.288227f
c8 6 0 0.408561f
c9 5 0 0.0174766f
c10 4 0 0.240863f
c11 3 0 0.17975f
r12 32 33 16.3327
r13 30 32 4.90213
r14 29 32 5.4383
r15 26 27 16.3327
r16 24 26 4.90213
r17 22 23 16.3327
r18 20 22 4.90213
r19 19 22 5.05532
r20 18 36 16.3327
r21 17 33 0.138478
r22 15 27 0.138478
r23 15 16 0.00770322
r24 13 23 0.138478
r25 13 14 0.00770322
r26 12 36 0.0353043
r27 11 16 0.0296412
r28 10 17 0.039111
r29 10 11 0.821739
r30 7 14 0.0296412
r31 7 9 0.718261
r32 6 16 0.0296412
r33 6 9 0.502174
r34 4 14 0.0296412
r35 4 5 0.745652
r36 3 5 0.039111
r37 2 12 0.039111
r38 2 3 0.441304
.ends

